US07897597B2
A solution of [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate (40.0 g, 0.0918 mol) in dichloromethane (650 mL) was cooled to 0° C.; ammonium hydroxide (250 mL of 28%) was added. A solution of p-toluenesulfonyl chloride (29.1 g, 0.153 mol) in dichloromethane (200 mL) was added over a period of 12 minutes while maintaining the reaction temperature below 5.5° C. The reaction mixture was then allowed to warm to room temperature and stirred for one hour. The reaction mixture was diluted with dichloromethane (100 mL), and the organic layer was washed with deionized water (2×400 mL), dried over magnesium sulfate, and filtered. The solution was then treated with activated charcoal for one hour, filtered through a layer of CELITE filter aid, concentrated under reduced pressure, and further dried under vacuum at 60° C. to provide 40.1 g of [4-amino-7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate.

reactant | [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | 0.0918 mol, 40.0 g | C(C)(=O)OCC=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCC2=CC=CC=C2)[O-])N1)CC(C)(C)O | C24H25N3O5
reactant | ammonium hydroxide | 250 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 0.153 mol, 29.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 650 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [4-amino-7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | 40.1 g | C(C)(=O)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)OCC2=CC=CC=C2)N)N1)CC(C)(C)O | C24H26N4O4
